US07737166B2
2-Cyclopropyl-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-6-(2-methoxy-1,3-thiazole-4-yl)-5-methyl-1,3-benzoxazole-4-carbonitrile (#85)
2-Cyclopropyl-7-fluoro-6-(2-methoxy-1,3-thiazol-4-yl)-5-methyl-1,3-benzoxazole-4-carbonitrile (I-179) (120 mg, 0.36 mmol) was dissolved in dimethyl sulfoxide (2.4 ml), then at room temperature, triethylamine (76 μl, 0.55 mmol) and (3S)-3-(dimethylamino)pyrrolidine (56 μl, 0.44 mmol) were added. The solution was stirred under nitrogen atmosphere at 90° C. for 18 hours, then cooled to room temperature. This was fractionated with ethyl acetate and an aqueous saturated sodium hydrogencarbonate solution. The aqueous layer was further extracted twice with ethyl acetate. The organic layers were combined, washed with saturated brine, and dried over anhydrous sodium sulfate. The insoluble matter was separated by filtration, then the solvent was evaporated away, and the resulting residue was purified by preparative TLC, in which, as the mobile layer, chloroform:methanol=9:1 was first used and then chloroform:7 N ammonia-containing methanol solution=97:3 was used, thereby obtaining a roughly-purified product (17 mg). This was washed with diisopropyl ether to obtain the entitled compound (6.5 mg, 4.2%) as a white solid.

reactant | 2-Cyclopropyl-7-fluoro-6-(2-methoxy-1,3-thiazol-4-yl)-5-methyl-1,3-benzoxazole-4-carbonitrile | 0.36 mmol, 120 mg | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2F)C=2N=C(SC2)OC)C)C#N | C16H12FN3O2S
reactant | triethylamine | 0.55 mmol, 76 μl | C(C)N(CC)CC | C6H15N
reactant | (3S)-3-(dimethylamino)pyrrolidine | 0.44 mmol, 56 μl | CN([C@@H]1CNCC1)C | C6H14N2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dimethyl sulfoxide | 2.4 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Cyclopropyl-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-6-(2-methoxy-1,3-thiazole-4-yl)-5-methyl-1,3-benzoxazole-4-carbonitrile | 17 mg | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2N2C[C@H](CC2)N(C)C)C=2N=C(SC2)OC)C)C#N | C22H25N5O2S
